US04879292
A mixture of 4-(3,5-difluorophenoxy)anisole (22.0 g, 0.093 mol), acetic acid (200 ml) and a 47% aqueous hydrogen bromide solution (200 ml) was heated with stirring under reflux for 8 hours. After allowed to cool, the reaction mixture was poured into ice-water and extracted with a mixture of ether and n-hexane (1:2). The organic layer was washed with water three times and dried over anhydrous magnesium sulfate. Removal of the solvent gave 4-(3,5-difluorophenoxy)phenol (20.27 g).

reactant | 4-(3,5-difluorophenoxy)anisole | 0.093 mol, 22.0 g | FC=1C=C(OC2=CC=C(C=C2)OC)C=C(C1)F | C13H10F2O2
reactant | hydrogen bromide | 200 ml | Br | BrH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-(3,5-difluorophenoxy)phenol | 20.27 g | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
